US07816371B2
c. (R)-2-(6-Chloro-1-oxo-5-(2-(4-(trifluoromethyl)phenyl)acetamido)isoquinolin-2(1H)-yl)propanamide
A round bottom flask was charged with (R)-2-(5-amino-6-chloro-1-oxoisoquinolin-2(1H)-yl)propanamide (50 mg, 0.0002 mol), N,N-dimethylformamide (1 mL, 0.01 mol), N,N-diisopropylethylamine (60 μL, 0.0004 mol), N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate (100 mg, 0.0004 mol) and 2-(4-(trifluoromethyl)phenyl)acetic acid (46 mg, 0.00022 mol) and the reaction stirred at room temperature overnight. The reaction was only 60% complete. Stirring for an additional 6 hours did not improve the reaction. The solvent was removed and the residue purified by preparative HPLC (reverse phase) to obtain the product as an off white solid. MS m/z=452.2 (M+H). 1H NMR (400 MHz; DMF) δ 10.41 (s, 1H), 8.34 (d, J=8.71 Hz, 1H), 7.93 (d, J=8.22 Hz, 1H), 7.84 (d, J=10.96 Hz, 1H), 7.80 (t, J=9.13 Hz, 1H), 7.68 (d, J=8.53 Hz, 1H), 7.44 (bs, 1H), 6.62 (d, J=7.89 Hz, 1H), 5.67-5.61 (q, J=7.24 Hz, 1H), 4.09 (s, 2H), 1.72 (d, J=7.50 Hz, 3H).

reactant | (R)-2-(5-amino-6-chloro-1-oxoisoquinolin-2(1H)-yl)propanamide | 0.0002 mol, 50 mg | NC1=C2C=CN(C(C2=CC=C1Cl)=O)[C@@H](C(=O)N)C | C12H12ClN3O2
reactant | N,N-dimethylformamide | 0.01 mol, 1 mL | CN(C=O)C | C3H7NO
reactant | N,N-diisopropylethylamine | 0.0004 mol, 60 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate | 0.0004 mol, 100 mg | F[P-](F)(F)(F)(F)F.C[N+](=C(ON1N=NC2=C1N=CC=C2)N(C)C)C
reactant | 2-(4-(trifluoromethyl)phenyl)acetic acid | 0.00022 mol, 46 mg | FC(C1=CC=C(C=C1)CC(=O)O)(F)F | C9H7F3O2
product | (R)-2-(6-Chloro-1-oxo-5-(2-(4-(trifluoromethyl)phenyl)acetamido)isoquinolin-2(1H)-yl)propanamide | ClC=1C(=C2C=CN(C(C2=CC1)=O)[C@@H](C(=O)N)C)NC(CC1=CC=C(C=C1)C(F)(F)F)=O | C21H17ClF3N3O3
